US06924400B2
(e) 1-{5′-[3,4-Bis(benzoyloxymethyl)benzyloxy]-2′-ethyl-2-isopropylbiphenyl-4-yl}-1-propanone
In a manner similar to that of Example 1(o), by reacting 660 mg (2.2 mmol) of 1-(2′-ethyl-5′-hydroxy-2-isopropylbiphenyl-4-yl)propan-1-one with 1 g (2.3 mmol) of 3,4-bis-(benzoyloxymethyl)benzyl bromide, an oil is obtained, which is used without purification.

reactant | 1-(2′-ethyl-5′-hydroxy-2-isopropylbiphenyl-4-yl)propan-1-one | 2.2 mmol, 660 mg | C(C)C1=C(C=C(C=C1)O)C1=C(C=C(C=C1)C(CC)=O)C(C)C | C20H24O2
reactant | 3,4-bis-(benzoyloxymethyl)benzyl bromide | 2.3 mmol, 1 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
product | 1-{5′-[3,4-Bis(benzoyloxymethyl)benzyloxy]-2′-ethyl-2-isopropylbiphenyl-4-yl}-1-propanone | C(C1=CC=CC=C1)(=O)OCC=1C=C(COC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)C(C)C)CC)C=CC1COC(C1=CC=CC=C1)=O | C43H42O6
